US06025390
5-Chlorobenzofuran-2-carboxaldehyde.
LiA1H4 (3.04 g, 80 mmol) was suspended under stirring at 0° under Ar in anhydrous THF (150 ml), then N-methylpiperazine dihydrochloride (6.92 g, 40 mmol) was added portionwise in 10 minutes. N-methylpiperazine (12 g, 120 mmol) was then added dropwise, the mixture was warmed to RT and stirring continued for 2 hours. The surnatant of this suspension was then added by syringe to a stirred solution at 0° under Ar of 5-chlorobenzofuran-2-carboxylic acid (2.95 g, 15.0 mmol) in anhydrous THF (50 ml). The mixture was refluxed for 4 hours and after cooling to RT the suspension was diluted with Et2O (400 ml). The resulting mixture was poured into water (500 ml) and the organic phase was decanted. The aqueous phase was extracted with Et2O (2×300 ml) and the pooled organic extracts were washed with 2N NaOH (200 ml), 1N HCl (200 ml) and brine (200 ml). After drying (MgSO4) and concentration a brown oily residue was obtained. This was chromatographed on silicagel (n-heptane/EtOAc 3/1). The pooled fractions produced after evaporation pure title compound (850 mg, 4.71 mmol, yield 31.4%) as brown needles.

reactant | N-methylpiperazine dihydrochloride | 40 mmol, 6.92 g | Cl.Cl.CN1CCNCC1
reactant | N-methylpiperazine | 120 mmol, 12 g | CN1CCNCC1 | C5H12N2
reactant | 5-chlorobenzofuran-2-carboxylic acid | 15.0 mmol, 2.95 g | ClC=1C=CC2=C(C=C(O2)C(=O)O)C1 | C9H5ClO3
reactant | water | 500 ml | O | H2O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | Et2O | 400 ml | CCOCC | C4H10O
product | 5-Chlorobenzofuran-2-carboxaldehyde | 4.71 mmol, 850 mg, yield 31.4% | ClC=1C=CC2=C(C=C(O2)C=O)C1 | C9H5ClO2
